US06083961
To a solution of 3-benzyloxy-N-ethyl-2-nitroaniline (2.20 g) and triethylamine (1.23 g) in dichloromethane (21 ml) was added acetyl chloride (698 mg) under ice-cooling, and the mixture was stirred for 3 hours at ambient temperature. The reaction mixture was washed with water, saturated sodium bicarbonate solution, water and brine successively, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel flash chromatography (dichloromethane-ethyl acetate) to give N-acetyl-3-benzyloxy-N-ethyl-2-nitroaniline (1.71 g).

reactant | 3-benzyloxy-N-ethyl-2-nitroaniline | 2.20 g | C(C1=CC=CC=C1)OC=1C(=C(NCC)C=CC1)[N+](=O)[O-] | C15H16N2O3
reactant | triethylamine | 1.23 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 698 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 21 ml | ClCCl | CH2Cl2
product | N-acetyl-3-benzyloxy-N-ethyl-2-nitroaniline | 1.71 g | C(C)(=O)N(C1=C(C(=CC=C1)OCC1=CC=CC=C1)[N+](=O)[O-])CC | C17H18N2O4
